US06624172B2
3-Chloroperbenzoic acid (3.7 g, 13.4 mmol) was added in 3 portions to a solution of 2-ethoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c][1,5]naphthyridine (3.9 g, 12.2 mmol) in chloroform (100 mL) in a flask covered with aluminum foil. The reaction mixture was stirred at ambient temperature overnight; and then it was washed twice with dilute aqueous sodium bicarbonate and once with brine. The chloroform layer was divided into two portions. One portion was used in the example below. The second portion was concentrated under vacuum. The residue was recrystallized from isopropyl alcohol to provide 2-ethoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c][1,5]naphthyridine-5-oxide as a solid, m.p. 187.5-189° C. Analysis: Calculated for C19H18N4O2+¼ H2O: %C, 67.52; %H, 5.49; %N, 16.58; Found: %C, 67.56; %H, 5.36; %N, 16.77.

reactant | 3-Chloroperbenzoic acid | 13.4 mmol, 3.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-ethoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c][1,5]naphthyridine | 12.2 mmol, 3.9 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=NC23)N1)CC1=CC=CC=C1 | C19H18N4O
reactant | aluminum | [Al] | Al
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c][1,5]naphthyridine-5-oxide | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC=NC23)[O-])N1)CC1=CC=CC=C1 | C19H18N4O2
